US05654296
4-(p-Chlorophenyl)-2-methyl-4-[3-(4-phenylpiperazin-1-yl)propyl]-1,2,3,4-tetrahydroisoquinoline hydrochloride
To a solution of 4-(p-chlorophenyl)-4-[3-(4-phenylpiperazin-1-yl)propyl]-1,2,3,4-tetrahydroisoquinoline (0.7 g) in acetonitrile (15 ml) was added formalin (0.64 ml). Then, sodium cyanoborohydride (0.16 g) was added portionwise with stirring. The mixture was stirred for 15 minutes, at the end of which time acetic acid was added dropwise until the solution became neutral. The mixture was further stirred for 2 hours and the reaction mixture was extracted with ethyl acetate-1N aqueous sodium hydroxide solution. The organic layer was washed with water, dried over anhydrous sodium sulfate and concentrated to dryness. The residue was purified by silica gel column chromatography and treated with hydrochloric acid to provde the title compound (0.6 g) as colorless powder.

reactant | 4-(p-chlorophenyl)-4-[3-(4-phenylpiperazin-1-yl)propyl]-1,2,3,4-tetrahydroisoquinoline | 0.7 g | ClC1=CC=C(C=C1)C1(CNCC2=CC=CC=C12)CCCN1CCN(CC1)C1=CC=CC=C1 | C28H32ClN3
reactant | formalin | 0.64 ml | C=O | CH2O
reactant | sodium cyanoborohydride | 0.16 g | C(#N)[BH3-].[Na+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
product | 4-(p-Chlorophenyl)-2-methyl-4-[3-(4-phenylpiperazin-1-yl)propyl]-1,2,3,4-tetrahydroisoquinoline hydrochloride | Cl.ClC1=CC=C(C=C1)C1(CN(CC2=CC=CC=C12)C)CCCN1CCN(CC1)C1=CC=CC=C1 | InChI=1S/C29H34ClN3.ClH/c1-31-22-24-8-5-6-11-28(24)29(23-31,25-12-14-26(30)15-13-25)16-7-17-32-18-20-33(21-19-32)27-9-3-2-4-10-27;/h2-6,8-15H,7,16-23H2,1H3;1H
